US05852017
d) 6-Chloro-1-(2-ethylbutyl)-7-nitro-2,3(1H,4H)-quinoxalinedione
30 g (0.106 mol) of 6-chloro-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione were dissolved in 350 ml of concentrated sulfuric acid and cooled to 0°C. Then, at 0° C., 10.8 g of potassium nitrate were added a little at a time, and the solution was stirred for 1.5 h. The mixture was then poured into ice-water, and the precipitate was filtered off with suction, washed with water and dried to yield 31 g (91%) of the product. Melting point 232°-233° C.

reactant | 6-chloro-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione | 0.106 mol, 30 g | ClC=1C=C2NC(C(N(C2=CC1)CC(CC)CC)=O)=O | C14H17ClN2O2
reactant | potassium nitrate | 10.8 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 350 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Chloro-1-(2-ethylbutyl)-7-nitro-2,3(1H,4H)-quinoxalinedione | 31 g, 91% | ClC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])CC(CC)CC)=O)=O | C14H16ClN3O4
